US07951836B2
5-Methanesulfonyl-2-(tetrahydro-pyran-4-yl)-benzoic acid
To 0.07 mmol 2-(3,6-Dihydro-2H-pyran-4-yl)-5-methanesulfonyl-benzoic acid (CAS: 847547-05-1) in 0.5 ml methanol under argon was added 20 mg Pd/C, followed by 0.07 mmol ammonium formate. The reaction mixture was refluxed for 30 minutes, filtered and evaporated. Water was added and the solution was acidified with 2N HCl to pH 1. The aqueous phase was extracted with dichloromethane. The combined organic phases were dried over Na2SO4 and evaporated to yield the title compound as a colorless oil. MS (m/e): 283.2([M−H], 100%).

reactant | 2-(3,6-Dihydro-2H-pyran-4-yl)-5-methanesulfonyl-benzoic acid | 0.07 mmol | O1CCC(=CC1)C1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C13H14O5S
reactant | ammonium formate | 0.07 mmol | C(=O)[O-].[NH4+]
solvent | methanol | 0.5 ml | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 5-Methanesulfonyl-2-(tetrahydro-pyran-4-yl)-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)C1CCOCC1 | C13H16O5S
